US07691877B2
4-benzylamino-6-trifluoromethyl-1,3-dihydro-imidazo(4,5-c)pyridine-2-one
(3-amino-2-benzylamino-6-trifluormethyl-pyridin-4-yl)-carbamic acid ethyl ester (88 mg, 0.25 mmol) was dissolved in 5 mL of acetic acid and the reaction mixture was stirred at 80° C. overnight. The solvent was removed and the gum was partitioned in water/ethyl acetate. The organic layer was isolated, dried over MgSO4, the solvent was removed in vacuo and purified by column chromatography on silica eluting with a gradient of 1% to 5% of methanol in ethyl acetate to give 37 mg of the title compound as a colourless gum.

reactant | (3-amino-2-benzylamino-6-trifluormethyl-pyridin-4-yl)-carbamic acid ethyl ester | 0.25 mmol, 88 mg | C(C)OC(NC1=C(C(=NC(=C1)C(F)(F)F)NCC1=CC=CC=C1)N)=O | C16H17F3N4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 4-benzylamino-6-trifluoromethyl-1,3-dihydro-imidazo(4,5-c)pyridine-2-one | 37 mg | C(C1=CC=CC=C1)NC1=NC(=CC2=C1NC(N2)=O)C(F)(F)F | C14H11F3N4O
